US07622469B2
6-Octyl-2,4-diamino-1,6-dihydro-1-(4′-tert-butylphenyl)-1,3,5-triazine hydrochloride
100 ml of ethanol, 4.8 ml (27.9 mmol) of 1-nonanal and 0.8 ml of concentrated hydrochloric acid were added to 5.0 g (18.5 mmol) of N1-(4-tert-butylphenyl)-biguanide hydrochloride, and the mixture was refluxed for 15 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (elution with a mixture of chloroform and methanol (9:1.5)), and recrystallized from 70% aqueous acetonitrile to obtain 16 g of colorless crystals having a melting point of 231 to 234° C.

reactant | 1-nonanal | 27.9 mmol, 4.8 ml | C(CCCCCCCC)=O | C9H18O
reactant | hydrochloric acid | 0.8 ml | Cl | ClH
reactant | N1-(4-tert-butylphenyl)-biguanide hydrochloride | 18.5 mmol, 5.0 g | Cl.C(C)(C)(C)C1=CC=C(C=C1)NC(=N)NC(=N)N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-Octyl-2,4-diamino-1,6-dihydro-1-(4′-tert-butylphenyl)-1,3,5-triazine hydrochloride | 16 g | Cl.C(CCCCCCC)C1N=C(N=C(N1C1=CC=C(C=C1)C(C)(C)C)N)N | InChI=1S/C21H35N5.ClH/c1-5-6-7-8-9-10-11-18-24-19(22)25-20(23)26(18)17-14-12-16(13-15-17)21(2,3)4;/h12-15,18H,5-11H2,1-4H3,(H4,22,23,24,25);1H
